US05723075
4,4'-di(phenylthiocarbamoylamino)benzanilide
4,4'-Diaminobenzanilide (0.658 g, 2.5 mM) was dissolved in 20 ml of acetone, and 2 equivalents of phenylisothiocyanate (0.676 g, 5 mM) was added. The mixture was stirred at 55° C. for 10 minutes. After cooling, the reaction mixture was filtered, and washed with acetone/n-hexane to obtain 0.90 g (72.3% yield) of a colorless crystal of compound A-15.

reactant | 4,4'-Diaminobenzanilide | 2.5 mM, 0.658 g | NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C=C1 | C13H13N3O
reactant | phenylisothiocyanate | 5 mM, 0.676 g, 2 equivalents | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4,4'-di(phenylthiocarbamoylamino)benzanilide | 0.90 g, 72.3% yield | C1(=CC=CC=C1)NC(=S)NC1=CC=C(C(=O)NC2=CC=C(C=C2)NC(NC2=CC=CC=C2)=S)C=C1 | C27H23N5OS2
